US07008940B1
N-methyl-N-(4-piperidinyl)-1,3-benzothiazole-2-amine hydrochloride
To a suspension of ethyl 4-[methyl[(phenylamino)thioxomethyl]amino]-1-piperidinecarboxylate (4.02 g, 12.5 mmol) in carbon tetrachloride (25 mL) was added dropwise a solution of bromine (2.00 g, 12.5 mmol) in carbon tetrachloride (10 mL), the mixture was stirred at room temperature for 30 minutes, and heated to reflex for 1 hours. The insolubles were filtered, and washed with hexane. This was dissolved in 48% hydrobromic acid (40 mL), and the solution was heated to reflux for 2 hours. The reaction mixture was ice-cooled, neutralized with 25% aqueous ammonia, and extracted with ethyl acetate two times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. To the residue was added diisopropyl ether, the insolubles were filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in methanol, a 10% hydrogen chloride-methanol solution (11 mL), and the mixture was concentrated under reduced pressure. The residue was recrystallized from methanol-diisopropyl ether to obtain 2.53 g of the title compound.

reactant | ethyl 4-[methyl[(phenylamino)thioxomethyl]amino]-1-piperidinecarboxylate | 12.5 mmol, 4.02 g | CN(C1CCN(CC1)C(=O)OCC)C(=S)NC1=CC=CC=C1 | C16H23N3O2S
reactant | bromine | 12.5 mmol, 2.00 g | BrBr | Br2
reactant | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-methyl-N-(4-piperidinyl)-1,3-benzothiazole-2-amine hydrochloride | 2.53 g, Yield 71% | Cl.CN(C=1SC2=C(N1)C=CC=C2)C2CCNCC2 | InChI=1S/C13H17N3S.ClH/c1-16(10-6-8-14-9-7-10)13-15-11-4-2-3-5-12(11)17-13;/h2-5,10,14H,6-9H2,1H3;1H
